US04619924
1-Oxo-3-p-methylphenylsulfonyloxythiane
p-Toluenesulfonyl chloride (3.65 g, 0.019 mole) was added to a solution of 1-oxo-3-thianol (2.14 g, 0.016 mole) and 4-dimethylaminopyridine (3.9 g, 0.032 mole) in 80 ml. methylene chloride cooled to 0° C. under nitrogen. After 30 min. at 0° C. the reaction was stirred at room temperature overnight. The solution was then washed with 50 ml. 1N aqueous hydrochloric acid solution, 50 ml. water and 50 ml. brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The crude product was chromatographed on silica gel (1 kg), eluting with acetone 1 hexane (4:1) to yield 300 mg. of the trans title compound, 1.4 g. of a mixture of cis and trans title compound and 1.5 g of cis title compound (70% total yield).

reactant | p-Toluenesulfonyl chloride | 0.019 mole, 3.65 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1-oxo-3-thianol | 0.016 mole, 2.14 g | O=S1CC(CCC1)O | C5H10O2S
catalyst | 4-dimethylaminopyridine | 0.032 mole, 3.9 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Oxo-3-p-methylphenylsulfonyloxythiane | O=S1CC(CCC1)OS(=O)(=O)C1=CC=C(C=C1)C | C12H16O4S2
